US09062006B2
To a Schlenk reactor, 30 mL of deionized water was added, followed by 5 g (44.3 mmol) of creatinine. Under a high-purity argon atmosphere, the mixture was heated with stirring. After the temperature in reactor reached up to the predetermined temperature of 18° C., an aqueous solution of hydrochloric acid at a concentration of 18.5% was added via a constant pressure dropping funnel into the reactor. The molar ratio between creatinine and hydrochloride was set as 1:1. The reaction was kept with stirring for 8 h. By using a rotary evaporator, the moisture contained in the system was removed under reduced pressure. The solid product was transferred into a vacuum oven and dried at room temperature for 48 h, to give 6.48 g of creatinine-guanidinium chloride as a snow white solid product.

reactant | creatinine | 44.3 mmol, 5 g | CN1CC(=O)N=C1N | C4H7N3O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 30 mL | O | H2O
product | creatinine guanidinium chloride | 6.48 g | CN1CC(=O)N=C1N.[Cl-].NC(=[NH2+])N | InChI=1S/C4H7N3O.CH5N3.ClH/c1-7-2-3(8)6-4(7)5;2-1(3)4;/h2H2,1H3,(H2,5,6,8);(H5,2,3,4);1H
